US04939144
2-[(Dimethylamino)methyl]-3,4-dihydro-4-methylcyclopent[b]indol-1(2H)-one
Butyllithium (1.6M in hexane; 3.4 ml) was added dropwise, under nitrogen, at 0° to a stirred solution of diisopropylamine (0.76 ml) in THF (15 ml) and the resulting solution was stirred at 0° for 10 min. before cooling to -78°. A solution of 4-methyl-3,4-dihydrocyclopent[b]indol-1(2H)-one (1 g) in THF (120 ml) was added dropwise at -78° to -70° and the resulting solution was stirred at ca. -78° for 10 min. before N,N-dimethylmethyleneammonium iodide (ca. 1 g) was added. The resulting mixture was allowed to warm to room temperature over 1.5 h and was then partitioned between 2N sodium carbonate (100 ml) and ethyl acetate (2×100 ml). The combined, dried organic extracts were evaporated in vacuo to give an oil which was purified by FCC eluting with System A (100:8:1) to give the title compound (0.14 g) as an oil, t.l.c. (System A 100:8:1) Rf 0.2.

reactant | Butyllithium | 1.6M, 3.4 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.76 ml | C(C)(C)NC(C)C | C6H15N
reactant | 4-methyl-3,4-dihydrocyclopent[b]indol-1(2H)-one | 1 g | CN1C2=C(C=3C=CC=CC13)C(CC2)=O | C12H11NO
reactant | N,N-dimethylmethyleneammonium iodide | ca. 1 g | [I-].CC=[N+]=CC
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 2-[(Dimethylamino)methyl]-3,4-dihydro-4-methylcyclopent[b]indol-1(2H)-one | 0.14 g | CN(C)CC1C(C2=C(N(C=3C=CC=CC23)C)C1)=O | C15H18N2O
